US06794397B2
6-Chloro-N-(4-benzyloxy-2-nitrophenyl)-3-pyridinecarboxamide
The title compound was prepared from 6-chloronicotinoyl chloride and 4-benzyloxy-2-nitroaniline and was obtained as a yellow solid as described in Example 1. 1H NMR (CDCl3): 11.13 (bs, 1H), 9.00 (d, J=3.0, 1H), 8.83 (d, J=9.3, 1H), 8.23-8.20 (m, 1H), 7.85 (d, J=3.0, 1H), 7.53-7.46 (m, 1H), 7.44-7.37 (m, 6H), 5.15 (s, 2H).

reactant | 6-chloronicotinoyl chloride | ClC1=NC=C(C(=O)Cl)C=C1 | C6H3Cl2NO
reactant | 4-benzyloxy-2-nitroaniline | C(C1=CC=CC=C1)OC1=CC(=C(N)C=C1)[N+](=O)[O-] | C13H12N2O3
product | 6-Chloro-N-(4-benzyloxy-2-nitrophenyl)-3-pyridinecarboxamide | ClC1=CC=C(C=N1)C(=O)NC1=C(C=C(C=C1)OCC1=CC=CC=C1)[N+](=O)[O-] | C19H14ClN3O4
